US07915424B2
(E)-(5-Styrylpyridin-3-yl)-methanol
Add a solution of commercially available 5-phenylethynyl-nicotinic acid ethyl ester (0.4 g, 1.59 mmol) in dry tetrahydrofuran (20 mL) to a solution of lithium aluminum hydride (20 mL, 0.08 M in tetrahydrofuran) at room temperature under nitrogen and stir for 3 h. Add a solution of lithium aluminum hydride (2 mL, 1 M in tetrahydrofuran) and stir for 1 h. Slowly add methanol (2 mL) and concentrate. Dilute with ethyl acetate, wash with water and a saturated aqueous solution of sodium chloride and dry. Purify the residue by silica gel chromatography, eluting with 5:1 hexanes:ethyl acetate to 10:90 hexanes:ethyl acetate, to give the E-isomer (7 mg, 2%).

reactant | 5-phenylethynyl-nicotinic acid ethyl ester | 1.59 mmol, 0.4 g | C(C)OC(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=O | C16H13NO2
reactant | lithium aluminum hydride | 0.08 M, 20 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 1 M, 2 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-(5-Styrylpyridin-3-yl)-methanol | C(=C\C1=CC=CC=C1)/C=1C=C(C=NC1)CO | C14H13NO
